US07226945B2
3) Synthetic method D: Synthesis of 5-fluoro-7-hydroxy-3-(4-hydroxyphenyl)-4-oxo-4H-1-benzopyran
A mixture of 5-fluoro-7-methoxy-3-(4-methoxyphenyl)-4-oxo-4H-1-benzopyran (132 mg) and pyridine hydrochloride (2 g) in a test tube was heated in an oil bath (preheated at 200° C.). The mixture melted, was stirred at 200° C. for 40 min and cooled. The residue was poured into 1N hydrochloric acid. The solids were filtered, washed with water and ether, and dried under high vacuum to give the title compound as a beige powder (82 mg). 1H NMR (DMSO-d6): 11.19 (s br, 1H), 9.55 (s br, 1H); 8.22 (s, 1H), 7.33 (d, 2H, J=7.8 Hz), 6.80 (d, 2H, J=7.8 Hz), 6.71 (s br, 1H), 6.65 (d br, 1H, J=12.9 Hz); MS: 273 (MH+); HPLC tR: 1.66 min.

reactant | 5-fluoro-7-methoxy-3-(4-methoxyphenyl)-4-oxo-4H-1-benzopyran | 132 mg | FC1=CC(=CC2=C1C(C(=CO2)C2=CC=C(C=C2)OC)=O)OC | C17H13FO4
reactant | pyridine hydrochloride | 2 g | Cl.N1=CC=CC=C1
reactant | hydrochloric acid | 1N | Cl | ClH
product | 5-fluoro-7-hydroxy-3-(4-hydroxyphenyl)-4-oxo-4H-1-benzopyran | 82 mg | FC1=CC(=CC2=C1C(C(=CO2)C2=CC=C(C=C2)O)=O)O | C15H9FO4
